*****************************************************************
* NXP BUK9Y7R2-60E
*
* Polarity N-Channel
* Ratings 60V/7.200000E-003OHMS/100A
*
* Date Created Fri Sep 27 04:28:57 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y7R2-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 6000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00395115880326547 TC=0.00435072350396932,2.33990544304462E-05
RBD 9 4 0.000627375838583507 TC=0.00435072350396932,2.33990544304462E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.15131666195975e-09
RG 1 2 2.5

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	3688.91
+ -16	3686.67
+ -10	3678.41
+ -5	3654.62
+ -4	3639.68
+ -3	3599.22
+ -2	3347.72
+ -1	2080.03
+ -0.5	1410.25
+ -0.2	947.164
+ -0.1	936.362
+ 0	726.10894
+ 0.1	563.13796
+ 0.2	562.50208
+ 0.5	479.99756
+ 1	404.13504
+ 2	307.2294
+ 3	267.46792
+ 4	249.26404
+ 5	238.63956
+ 6	231.55108
+ 8	222.047
+ 10	215.3634
+ 12	209.91436
+ 15	202.92064
+ 16	200.73832
+ 20	193.0522
+ 25	184.89768
+ 30	178.3496
+ 50	162.77492



.MODEL MINT NMOS(Vto=2.11542002332475 Kp=3.140587e+002 Nfs=390000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=5.01305502873997e-13
+ N=1 M=0.58 VJ=0.53 Fc=0.5 Cjo=1.46675952e-09 Tt=1.3552e-08)

.ENDS

